US04916149
After boiling 23.3 g of 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine [prepared as described in: J. Org. Chem. 42, 542 (1977)] with 120 ml of acetic acid and 20 ml of acetic anhydride for 6 hours, the orange-red solution obtained was evaporated under reduced pressure and the residue was triturated with water. The separated crystals were filtered by suction, washed with water and dried at 80° C. to yield 23.2 g (90%) of 1-acetylamino-2-methyl-5-trifluoromethylbenzimidazole, m.p.: 214°-216° C. after recrystallization from acetone.

reactant | 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine | 23.3 g | NC1=C(C=CC(=C1)C(F)(F)F)N(N)C(C)=O | C9H10F3N3O
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1-acetylamino-2-methyl-5-trifluoromethylbenzimidazole | 23.2 g, 90% | C(C)(=O)NN1C(=NC2=C1C=CC(=C2)C(F)(F)F)C | C11H10F3N3O
